### PR TITLE
[doc] [error] Auto-admit bullets on new bullet error.

### LINKED ISSUE #300: Auto admit goal selectors
It would be nice if we could have more fine grained auto admits.

For example the following proof is incomplete:

```coq
Goal nat * nat * nat.
Proof.
  refine (_,_,_).
  - apply S.
  - apply S.
    exact 1.
  - exact 1.
Qed.
```
A use might want to work on the middle branch but the first branch prevents this from happening. coq-lsp should detect these situations and automatically insert an `admit.` so that the goal selector is properly closed. Something similar already happens in Coq by default when you do `{ incompelte. }`, using the bracket selectors.

### PR DESCRIPTION
**Pull request by ejgallego**
This is very useful when doing bulleted proofs.

Fixes #300

### CODE REVIEW

File: CHANGES.md [hunk 1]
```diff
@@ -55,6 +55,9 @@
    will now be properly represented, as well as constructors for
    inductive types, projections for records, etc...  (@ejgallego,
    #174, fixes #121, #122)
+ - Auto-admit bullet goal when a new bullet cannot be opened due to
```
Comment (Alizter) [inline CHANGES.md:58]:
```suggestion
 - Auto-admit bullet goals when a new bullet cannot be opened due to
```

File: CHANGES.md [hunk 2]
```diff
@@ -55,6 +55,9 @@
...
+   unsolved previous bullet, this is very useful when navigating
```
Comment (Alizter) [inline CHANGES.md:59]:
```suggestion
   an unsolved previous bullet, this is very useful when navigating
```

**Comment by Alizter** [comment]
Can you add an example of a bulleted proof that demonstrates this behaviour?

File: CHANGES.md (hunk 1 above)
Comment (ejgallego) [reply CHANGES.md]: Thanks.

File: CHANGES.md (hunk 2 above)
Comment (ejgallego) [reply CHANGES.md]: Thanks.

**Comment by ejgallego** [comment]
> Can you add an example of a bulleted proof that demonstrates this behaviour?

Last proof in goals.v should showcase the behavior.

File: examples/goals.v [hunk 3]
```diff
@@ -13,4 +13,12 @@ Lemma bar : nat.
...
 exact a.
+Qed.
+
+Lemma failingBullet : (1 = 1) /\ (21 = 21 /\ 22 = 22) /\ (3 = 3).
+Proof.
+split;[|split].
+- 
+- 
+- auto.
 Qed.
```
Comment (Alizter) [inline examples/goals.v:24]:
```suggestion
Qed.

```

**Review by Alizter — APPROVED** [review]
